US07402592B2
Ethyl 6-hydroxy-6-(5-phenyl-3-pyridinyl)-3-azabicyclo[3.2.1]octane-3-carboxylate
To a solution of 3-bromo-5-phenylpyridine (0.23 g, 1.0 mmol) in THF (5 mL) at ambient temperature was added 2.0 M isopropylmagnesium chloride in THF (0.5 mL). The reaction was stirred for an hour under nitrogen. Then a solution of ethyl 6-oxo-3-azabicyclo[3.2.1]octane-3-carboxylate (0.21 g, 1.0 mmol) in THF (2 mL) was added. The mixture was stirred at ambient temperature overnight, concentrated and quenched with water (1 mL). The mixture was extracted with chloroform (2×10 mL), and the combined extracts were dried over magnesium sulfate, filtered, and concentrated by rotary evaporation. The compound was purified by silica gel column chromatography (1:1 ethyl acetate/hexane) to yield 50 mg of product (13%).

reactant | 3-bromo-5-phenylpyridine | 1.0 mmol, 0.23 g | BrC=1C=NC=C(C1)C1=CC=CC=C1 | C11H8BrN
reactant | isopropylmagnesium chloride | 2.0 M | C(C)(C)[Mg]Cl
reactant | ethyl 6-oxo-3-azabicyclo[3.2.1]octane-3-carboxylate | 1.0 mmol, 0.21 g | O=C1C2CN(CC(C1)C2)C(=O)OCC | C10H15NO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Ethyl 6-hydroxy-6-(5-phenyl-3-pyridinyl)-3-azabicyclo[3.2.1]octane-3-carboxylate | 50 mg, 13% | OC1(C2CN(CC(C1)C2)C(=O)OCC)C=2C=NC=C(C2)C2=CC=CC=C2 | C21H24N2O3
